US09447090B2
To 1.09 g of 2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxane-5-carboxylic acid were added 20 ml of toluene, 0.9 ml of triethylamine, 2.4 ml of benzyl alcohol, and 1.3 ml of diphenylphosphoryl azide, followed by stirring at 100° C. for 17 hours. After leaving to be cooled, to the reaction mixture were added a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.01 g of benzyl[2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxan-5-yl]carbamate.

reactant | 2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxane-5-carboxylic acid | 1.09 g | CC1(OCC(CO1)(C(=O)O)C=1C=NC=CC1)C | C12H15NO4
reactant | benzyl alcohol | 2.4 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | diphenylphosphoryl azide | 1.3 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl[2,2-dimethyl-5-(pyridin-3-yl)-1,3-dioxan-5-yl]carbamate | 1.01 g | C(C1=CC=CC=C1)OC(NC1(COC(OC1)(C)C)C=1C=NC=CC1)=O | C19H22N2O4
